US06426345B1
To a suspension of sodium hydride (60% in oil, 1.1 g) in N,N-dimethylformamide (20 ml) was added dropwise a solution of 3-nitro-N-(3,5-dichlorophenyl)benzamide (5.89 g) in N,N-dimethylformamide (40 ml). The mixture was stirred at room temperature for 1 hour, then iodomethane (3 ml) was added thereto. After stirring at room temperature for 1 hour, dilute hydrochloric acid was added to the mixture and extracted with ethyl acetate twice. The combined organic solution was washed with water and brine, dried over magnesium sulfate and concentrated. The residue was solidified with isopropyl ether to give 3-nitro-N-methyl-N-(3,5-dichlorophenyl)benzamide (4.62 g).

reactant | sodium hydride | 1.1 g | [H-].[Na+]
reactant | 3-nitro-N-(3,5-dichlorophenyl)benzamide | 5.89 g | [N+](=O)([O-])C=1C=C(C(=O)NC2=CC(=CC(=C2)Cl)Cl)C=CC1 | C13H8Cl2N2O3
reactant | iodomethane | 3 ml | IC | CH3I
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 3-nitro-N-methyl-N-(3,5-dichlorophenyl)benzamide | 4.62 g | [N+](=O)([O-])C=1C=C(C(=O)N(C2=CC(=CC(=C2)Cl)Cl)C)C=CC1 | C14H10Cl2N2O3
